US05163060
Example 19: Synthesis of 4(6-hydroxyhexyl)-2,2-dimethyl-1,3-dioxolane
Alkene ketal, 4(5-hexenyl)-2,2-dimethyl-1,3-dioxolane, (0.01 mole) was dissolved in ether (50 mL) in a flask equipped with dropping funnel, condenser and magnetic stirrer. A steady stream of dry nitrogen was bubbled through the solution. The dropping funnel was charged with borane methylsulfide (Aldrich Chemical Co., Milwaukee, Wis.) (5 mL) in ether (25 mL) and added dropwise to the alkene ketal solution over 30 mins. and the resulting mixture allowed to warm to room temperature and stirred for 3 hrs. Ethanol was then added to scavenge excess borane followed by sodium hydroxide (5 mL of 3 molar solution) and the resulting solution cooled in an ice bath before hydrogen peroxide (19 mL 30% solution) was added at such a rate that the reaction temperature did not exceed 35° C. After addition of the hydrogen peroxide was completed the reaction mixture was refluxed for 1 hr before it was poured over an ice/water (120 mL) mixture. The mixture was saturated with sodium chloride and extracted with ether. The extract was then dried over anhydrous sodium carbonate. The desired product (1.3 g) was obtained on evaporation of ether.

reactant | 4(5-hexenyl)-2,2-dimethyl-1,3-dioxolane | 0.01 mole | C(CCCC=C)C1OC(OC1)(C)C | C11H20O2
reactant | ether | 50 mL | CCOCC | C4H10O
product | 4(6-hydroxyhexyl)-2,2-dimethyl-1,3-dioxolane | 1.3 g | OCCCCCCC1OC(OC1)(C)C | C11H22O3
